US06841079B2
A one-liter three-neck flask equipped with magnetic stirring and an addition funnel was charged with 150 g of N-methylperfluorooctanesulfonamide and 570 g of dimethyl sulfoxide, and the mixture was stirred for a few minutes until the solid dissolved. To this stirred solution was added a solution of 25 g of potassium hydroxide in 25 g of water. This mixture was allowed to stir for 30 min, then 46 g of allyl bromide was added dropwise via the addition funnel. An exotherm was noted after a few minutes. The reaction mixture was allowed to stir for 5.5 hr, during which time a white solid precipitated from solution. This solid was isolated by filtration, washed with 350 mL dimethyl sulfoxide, and dissolved in 450 g of 1,1,2-trichlorotrifluoroethane. This solution was transferred to a separatory funnel, washed with four 200 mL portions of water, and dried over anhydrous sodium sulfate. After removal of solvent by distillation at atmospheric pressure, the product was vacuum distilled to yield 138 g of C8F17SO2N(CH3)CH2CH═CH2, b.p. 98° C. at 0.4 torr (50 Pa) to 105° C. at 0.7 torr (90 Pa). The product was a clear, almost colorless liquid which solidified to a white, waxy solid upon standing at room temperature.

reactant | N-methylperfluorooctanesulfonamide | 150 g | CNS(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C9H4F17NO2S
reactant | dimethyl sulfoxide | 570 g | CS(=O)C | C2H6OS
reactant | potassium hydroxide | 25 g | [OH-].[K+]
reactant | allyl bromide | 46 g | C(C=C)Br | C3H5Br
solvent | water | 25 g | O | H2O
product | C8F17SO2N(CH3)CH2CH═CH2 | 138 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N(C)CC=C | C12H8F17NO2S
